US04873250
To a stirred, cooled (0°) solution of ethyl benzoylacetate (200 g) and concentrated ammonia in ethanol (1 L) was added crotonaldehyde (110 g) at a rate 2.5 ml/min while the temperature was kept below 10°. The mixture was warmed to room temperature overnight and concentrated in vacuo to give a yellow oily residue (260 g). The residue was treated with a mixture of con H2SO4 (100 ml), con HNO3 (130 ml) and water (580 ml) and the mixture cautiously heated on a steam bath until the evolution of NO2 had subsided, then heated for another 30 min. After cooling, the supernatant was basified with con NH4OH and extracted with diethyl ether (300 ml×10). The combined ether extracts were concentrated to leave a dark brown oily residue (38 g). Purification of the residue by silica gel column chromatography (70 - 230 mesh, 400 g, 42×5 cm, three times) using n-hexaneethyl acetate (2:1) as eluent afforded 15 g of ethyl-4-methyl-2-phenylnicotinate. Hydrolysis of ethyl-4-methyl-2-phenylnicotinate (15 g) with refluxing ethanolic KOH, followed by work-up afforded 4-methyl-2-phenylnicotinic acid (9 g) as colorless prisms, mp 210°-212°. Treatment of 4-methyl-2-phenylnicotinic acid (9 g) with polyphosphoric acid (166.7 g) at 130° for 3 hr., afforded 1-methyl-4-azafluoren-9-one, onychine, (7.5 g) as yellow prisms from n-hexane, mp 130°-131° C.

reactant | ethyl-4-methyl-2-phenylnicotinate | 15 g | C(C)OC(C1=C(N=CC=C1C)C1=CC=CC=C1)=O | C15H15NO2
reactant | KOH | [OH-].[K+]
product | 4-methyl-2-phenylnicotinic acid | 9 g | CC1=CC=NC(=C1C(=O)O)C1=CC=CC=C1 | C13H11NO2
